US06166208
Process B Intermediate: 6-Iodo-3-propyl-2,4(1H,3H)-quinazolinedione
A mixture of 5.0 g (0.019 mol) 2-amino-5-iodobenzoic acid, 1.9 g (0.012 mol) n-propyl isocyanate, and 1.9 g (0.019 mol) triethylamine in 190 mL of acetonitrile was stirred at ambient temperature overnight. An additional 1.9 g (0.012 mol) of n-propyl isocyanate was added and stirring continued at ambient temperature for an additional 72 h. The reaction was then concentrated by atmospheric pressure distillation to deliver 7.8 g of an oil which solidified upon standing under reduced pressure. A 3.6 g portion of this crude material was subjected to heating neat at 190° C. for 0.75 h. The resulting reaction mass was cooled, treated with approximately 20 mL ethanol, agitated, and filtered. The filter cake was subsequently washed with ether and dried to deliver 1.8 g of the title compound, 1H NMR (300 MHz, Me2SO--d6): δ0.87 (s,3H); 1.50-1.69 (m,2H); 3.83 (t,2H); 6.99 (d,1H); 7.94 (dd,1H); 8.16 (d,1H); 11.50 (bs,1H).

reactant | 2-amino-5-iodobenzoic acid | 0.019 mol, 5.0 g | NC1=C(C(=O)O)C=C(C=C1)I | C7H6INO2
reactant | n-propyl isocyanate | 0.012 mol, 1.9 g | C(CC)N=C=O | C4H7NO
reactant | triethylamine | 0.019 mol, 1.9 g | C(C)N(CC)CC | C6H15N
reactant | n-propyl isocyanate | 0.012 mol, 1.9 g | C(CC)N=C=O | C4H7NO
reactant | ethanol | approximately 20 mL | C(C)O | C2H6O
solvent | acetonitrile | 190 mL | C(C)#N | C2H3N
product | 6-Iodo-3-propyl-2,4(1H,3H)-quinazolinedione | IC=1C=C2C(N(C(NC2=CC1)=O)CCC)=O | C11H11IN2O2
